US05709867
(b) Preparation of 5-nitro-2-trichloroacetylpyrrole
21.3 g (0.1 mol) of 2-trichloroacetylpyrrole and 100 ml of acetic anhydride were introduced into a round-bottomed flask. At 0° C., a solution of 4.2 ml of fuming nitric acid, 8 ml of acetic acid and 8 ml of acetic anhydride was added dropwise and the temperature was permitted to increase to room temperature. The reaction medium was poured into ice, the pH adjusted to 8 with sodium bicarbonate, extracted with dichloromethane, the organic phase decanted off, dried over magnesium sulfate and evaporated. The residue obtained was purified by chromatography on a silica column eluted with a mixture of dichloromethane and hexane (60-40). There were recovered 5.5 g (21%) of 5-nitro-2-trichloroacetylpyrrole in the form of a dark green oil and 11.2 g of 4-nitro-2-trichloroacetylpyrrole of melting point 160°-163° C.

reactant | 2-trichloroacetylpyrrole | 0.1 mol, 21.3 g | ClC(C(=O)C=1NC=CC1)(Cl)Cl | C6H4Cl3NO
reactant | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | 4.2 ml | [N+](=O)(O)[O-] | HNO3
reactant | acetic anhydride | 8 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
product | 5-nitro-2-trichloroacetylpyrrole | [N+](=O)([O-])C1=CC=C(N1)C(C(Cl)(Cl)Cl)=O | C6H3Cl3N2O3
